US05142056
A. N-(Chlorosulfonyl)-valine Methyl Ester
A suspension of 15.3 g (90 mmol) of L-valine methyl ester hydrochloride in 45 ml of acetonitrile was treated with 22 ml (270 mmol) of sulfuryl chloride and heated at reflux for 16 h. The resulting light yellow solution was allowed to cool and concentrated in vacuo to a viscous oil. The oil was treated two times with acetonitrile followed each time by concentration in vacuo. The crude desired product was thus obtained as a viscous oil.

reactant | L-valine methyl ester hydrochloride | 90 mmol, 15.3 g | Cl.COC([C@@H](N)C(C)C)=O
reactant | sulfuryl chloride | 270 mmol, 22 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | N-(Chlorosulfonyl)-valine Methyl Ester | COC([C@@H](NS(=O)(=O)Cl)C(C)C)=O | C6H12ClNO4S
